US04904671
4-(2-Methylimidazo[4,5-c]pyrid-1-yl)butyl 3-(4-fluorophenyl)-3-oxo-propionate
Methyl 4-fluorobenzoylacetate (0.78 g, 4 mM) and 4-(2-methylimidazo[4,5-c]pyrid-1-yl)butanol (0.82 g, 4 mM--see Preparation 16) were heated at reflux in toluene (100 cm3) allowing the toluene to reduce to about 20 cm3 over a period of 2 hours. The remaining toluene was removed in vacuo and the residue purified by column chromatography on silica (Merck "Kieselgel 60"--Trade Mark) eluting with dichloromethane:methanol 19:1. Evaporation of the appropriate fractions gave the title compound as a colourless oil, (1.05 g, 71%).

reactant | Methyl 4-fluorobenzoylacetate | 4 mM, 0.78 g | FC1=CC=C(C(=O)CC(=O)OC)C=C1 | C10H9FO3
reactant | 4-(2-methylimidazo[4,5-c]pyrid-1-yl)butanol | 4 mM, 0.82 g | CC=1N(C2=C(C=NC=C2)N1)CCCCO | C11H15N3O
solvent | toluene | 100 cm3 | C1(=CC=CC=C1)C | C7H8
product | 4-(2-Methylimidazo[4,5-c]pyrid-1-yl)butyl 3-(4-fluorophenyl)-3-oxo-propionate | 1.05 g, 71% | FC1=CC=C(C=C1)C(CC(=O)OCCCCN1C(=NC=2C=NC=CC21)C)=O | C20H20FN3O3
